US09212190B2
A 500-mL round-bottom flask, purged and maintained with an inert atmosphere of nitrogen, was charged with a solution of methyl trans-4-hydroxycyclohexane-1-carboxylate (16.6 g, 104.93 mmol, 1.00 equiv) and imidazole (14.28 g, 180.53 mmol, 1.72 equiv) in distilled DMF (25 mL). Tert-butyl(chloro)dimethylsilane (28.3 g, 187.76 mmol, 1.79 equiv) was added slowly and the resulting solution was stirred for 14 hrs at room temperature. After completion, the reaction was then quenched with water and extracted with 3×200 mL of ethyl acetate. The combined organic layers were washed with water, brine and dried over sodium sulfate. After concentration under reduced pressure, the residue was applied onto a silica gel column with ethyl acetate/petroleum ether (10:1) to give the desired methyl trans-4-[(tert-butyldimethylsilyl)oxy]cyclohexane-1-carboxylate (27.4 g, 96%) as a colorless oil.

reactant | methyl trans-4-hydroxycyclohexane-1-carboxylate | 104.93 mmol, 16.6 g, 1.00 equiv | O[C@@H]1CC[C@H](CC1)C(=O)OC | C8H14O3
reactant | imidazole | 180.53 mmol, 14.28 g, 1.72 equiv | N1C=NC=C1 | C3H4N2
reactant | Tert-butyl(chloro)dimethylsilane | 187.76 mmol, 28.3 g, 1.79 equiv | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | methyl trans-4-[(tert-butyldimethylsilyl)oxy]cyclohexane-1-carboxylate | 27.4 g, 96% | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)C(=O)OC | C14H28O3Si
